US07388005B2
4.1 7,7-Dimethyl-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one
A mixture containing 5.15 g (26.52 mmol) of ethyl 3-(4-pyrimidinyl)-3-oxopropionate, (prepared by analogy to the method described in patent DE 2705582), 4.34 g (26.52 mmol) of 5,5-dimethyl-1,4,5,6-tetrahydro-2-pyrimidinamine monohydrochloride (prepared by analogy to U.S. Pat. No. 4,262,122) and 3.66 g (26.5 mmol) of potassium carbonate in 60 ml of methanol were heated at reflux temperature during 18 h.

reactant | ethyl 3-(4-pyrimidinyl)-3-oxopropionate | 26.52 mmol, 5.15 g | N1=CN=C(C=C1)C(CC(=O)OCC)=O | C9H10N2O3
reactant | 5,5-dimethyl-1,4,5,6-tetrahydro-2-pyrimidinamine monohydrochloride | 26.52 mmol, 4.34 g | Cl.CC1(CN=C(NC1)N)C
reactant | potassium carbonate | 26.5 mmol, 3.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 60 ml | CO | CH4O
product | 7,7-Dimethyl-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | CC1(CNC=2N(C(C=C(N2)C2=NC=NC=C2)=O)C1)C | C13H15N5O
